US03963730
A solution of 15.4 g. of acetonine in 60 g. of acetone was added dropwise with 6.5 g. of boron trifluoride etherate at room temperature. After completion of the addition, the mixture was heated at 48°-50°C. for 3 hours to effect the reaction. After completion of the reaction, the reaction mixture was purified in the same manner as in Example 1 to obtain triacetonamine in a yield of 116%.

reactant | acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | acetone | CC(=O)C | C3H6O
product | triacetonamine | yield of 116% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
